*$ 
* TLV333
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: TLV333
* Date: 03May2019
* Model Type: Generic (suitable for all analysis types)
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SBOS751 -DECEMBER 2015
* Created with Green-Williams-Lis Op Amp Macro-model Architecture
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Updates:
*
* Final 1.1
* Model developed with GWL Architecture.
*
* Final 1.0
* Release to Web.
*
*****************************************************************************
* Model Usage Notes:
* 1. The following parameters are modeled: 
* 		OPEN-LOOP GAIN AND PHASE VS. FREQUENCY  WITH RL, CL EFFECTS (Aol)
* 		UNITY GAIN BANDWIDTH (GBW)
* 		INPUT COMMON-MODE REJECTION RATIO VS. FREQUENCY (CMRR)
* 		POWER SUPPLY REJECTION RATIO VS. FREQUENCY (PSRR)
* 		DIFFERENTIAL INPUT IMPEDANCE (Zid)
* 		COMMON-MODE INPUT IMPEDANCE (Zic)
* 		OPEN-LOOP OUTPUT IMPEDANCE VS. FREQUENCY (Zo)
* 		OUTPUT CURRENT THROUGH THE SUPPLY (Iout)
* 		INPUT VOLTAGE NOISE DENSITY VS. FREQUENCY (en)
* 		INPUT CURRENT NOISE DENSITY VS. FREQUENCY (in)
* 		OUTPUT VOLTAGE SWING vs. OUTPUT CURRENT (Vo)
* 		SHORT-CIRCUIT OUTPUT CURRENT (Isc)
* 		QUIESCENT CURRENT (Iq)
* 		SETTLING TIME VS. CAPACITIVE LOAD (ts)
* 		SLEW RATE (SR)
* 		SMALL SIGNAL OVERSHOOT VS. CAPACITIVE LOAD
* 		LARGE SIGNAL RESPONSE
* 		OVERLOAD RECOVERY TIME (tor)
* 		INPUT BIAS CURRENT (Ib)
* 		INPUT OFFSET CURRENT (Ios)
* 		INPUT OFFSET VOLTAGE (Vos)
* 		INPUT OFFSET VOLTAGE VS. TEMPERATURE (VOS DRIFT)
* 		INPUT COMMON-MODE VOLTAGE RANGE (Vcm)
* 		INPUT OFFSET VOLTAGE VS. INPUT COMMON-MODE VOLTAGE (Vos vs. Vcm)
* 		INPUT/OUTPUT ESD CELLS (ESDin, ESDout)
**************************************************************
.SUBCKT TLV333 IN+ IN- OUT VCC VEE
**************************************************************
.MODEL R_NOISELESS RES (TCE=0 T_ABS=-273.15)
.MODEL S_VSWITCH_1 VSWITCH (RON=1M ROFF=1G VON=900M VOFF=800M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.MODEL S_VSWITCH_3 VSWITCH (RON=10M ROFF=1G VON=10M VOFF=0)
**************************************************************
V_ORn       37 VCLP -10.5
V_ORp       38 VCLP 10
V4          ZO_OUT_J1 OUT 0
V_GRp       53 MID 169
V_GRn       54 MID -189
V_ISCp      49 MID 4.9531
V_ISCn      50 MID -9.9765
V11         44 48 0
V12         43 47 0
VCM_MIN     67 VEE_B -100M
VCM_MAX     68 VCC_B 100M
I_Q         VCC VEE 17U
I_OS        ESDn MID -70P
I_B         22 MID 70P
XU6         21 22 VOS_DRIFT_0_TLV333
XIn11       ESDn MID FEMT_0_TLV333
XU4         OUT_J1_23 ESDp MID PSRR_CMRR_0_TLV333
XU3         OUT_J1_24 VEE_B MID PSRR_CMRR_1_TLV333
XU2         OUT_J1_25 VCC_B MID PSRR_CMRR_2_TLV333
XU1 Zo_Cleft CL_CLAMP Zo_Cright MID ZO_OUT_J1 AOL_INN_J1 AOL_INP_J1 CLAMP 
+ CLAW_CLAMP VSENSE AOL_ZO_0_TLV333 
XU5         VEE VCC ESDn ESDp ESD_0_TLV333
C_DIFF      ESDp ESDn 2P   
XIn12       MID 22 FEMT_0_TLV333
XGR_SRC     31 32 CLAMP MID VCCS_LIM_GR_0_0_TLV333
XCL_SRC     33 34 CL_CLAMP MID VCCS_LIM_4_0_0_TLV333
XCLAW_SRC   35 36 CLAW_CLAMP MID VCCS_LIM_3_0_0_TLV333
XCLAWp      VIMON MID 39 VCC_B VCCS_LIM_CLAW+_0_0_TLV333
XCLAWn      MID VIMON VEE_B 40 VCCS_LIM_CLAW-_0_0_TLV333
Xe_n        22 ESDp VNSE_0_TLV333
H2          41 MID V11 -1
H3          42 MID V12 1
S1          Zo_Cleft Zo_Cright SW_OL MID  S_VSWITCH_1
S7          VEE OUT VEE OUT  S_VSWITCH_2
S6          OUT VCC OUT VCC  S_VSWITCH_2
SOR_SWp     CLAMP 43 CLAMP 43  S_VSWITCH_3
SOR_SWn     44 CLAMP 44 CLAMP  S_VSWITCH_3
C_CMn       ESDn MID 4P   
C_CMp       MID ESDp 4P   
C28         45 MID 1P   
R77         42 45 R_NOISELESS 100 
C27         46 MID 1P   
R76         41 46 R_NOISELESS 100 
R75         MID 47 R_NOISELESS 1 
GVCCS8      47 MID 38 MID  -1
R74         48 MID R_NOISELESS 1 
GVCCS7      48 MID 37 MID  -1
XIQPos      VIMON MID MID VCC VCCS_LIMIT_IQ_0_TLV333
XIQNeg      MID VIMON VEE MID VCCS_LIMIT_IQ_0_TLV333
XCL_AMP     49 50 VIMON MID 51 52 CLAMP_AMP_LO_0_TLV333_0_TLV333
XGR_AMP     53 54 55 MID 56 57 CLAMP_AMP_HI_0_TLV333
R39         53 MID R_NOISELESS 1T 
R37         54 MID R_NOISELESS 1T 
R42         VSENSE 55 R_NOISELESS 1M 
C19         55 MID 1F   
R38         56 MID R_NOISELESS 1 
R36         MID 57 R_NOISELESS 1 
R40         56 31 R_NOISELESS 1M 
R41         57 32 R_NOISELESS 1M 
C17         31 MID 1F   
C18         MID 32 1F   
R21         51 MID R_NOISELESS 1 
R20         MID 52 R_NOISELESS 1 
R29         51 33 R_NOISELESS 1M 
R30         52 34 R_NOISELESS 1M 
C9          33 MID 1F   
C8          MID 34 1F   
R22         49 MID R_NOISELESS 1T 
R19         MID 50 R_NOISELESS 1T 
R12         39 VCC_B R_NOISELESS 1K 
R16         39 58 R_NOISELESS 1M 
R13         VEE_B 40 R_NOISELESS 1K 
R17         59 40 R_NOISELESS 1M 
C6          59 MID 1F   
C5          MID 58 1F   
G2          VCC_CLP MID 58 MID  -1M
R15         VCC_CLP MID R_NOISELESS 1K 
G3          VEE_CLP MID 59 MID  -1M
R14         MID VEE_CLP R_NOISELESS 1K 
XCLAW_AMP   VCC_CLP VEE_CLP VOUT_S MID 60 61 CLAMP_AMP_LO_0_TLV333
R26         VCC_CLP MID R_NOISELESS 1T 
R23         VEE_CLP MID R_NOISELESS 1T 
R25         60 MID R_NOISELESS 1 
R24         MID 61 R_NOISELESS 1 
R27         60 35 R_NOISELESS 1M 
R28         61 36 R_NOISELESS 1M 
C11         35 MID 1F   
C10         MID 36 1F   
C12         SW_OL MID 100P   
R32         62 SW_OL R_NOISELESS 100 
R31         62 MID R_NOISELESS 1 
XOL_SENSE   MID 62 46 45 OL_SENSE_0_TLV333
H1          63 MID V4 1K
R11         MID 64 R_NOISELESS 1T 
R18         64 VOUT_S R_NOISELESS 100 
C7          VOUT_S MID 1N   
E2          64 MID OUT MID  1
C13         VIMON MID 1N   
R33         63 VIMON R_NOISELESS 100 
R10         MID 63 R_NOISELESS 1T 
R47         65 VCLP R_NOISELESS 100 
C24         VCLP MID 100P   
E4          65 MID CL_CLAMP MID  1
C4          AOL_INP_J1 MID 1F   
R9          AOL_INP_J1 66 R_NOISELESS 1M 
R7          MID 67 R_NOISELESS 1T 
R6          68 MID R_NOISELESS 1T 
R8          MID 66 R_NOISELESS 1 
XVCM_CLAMP  69 MID 66 MID 68 67 VCCS_EXT_LIM_0_TLV333
E1          MID 0 70 0  1
R89         VEE_B 0 R_NOISELESS 1 
R5          71 VEE_B R_NOISELESS 1M 
C3          71 0 1F   
R60         70 71 R_NOISELESS 1MEG 
C1          70 0 1   
R3          70 0 R_NOISELESS 1T 
R59         72 70 R_NOISELESS 1MEG 
C2          72 0 1F   
R4          VCC_B 72 R_NOISELESS 1M 
R88         VCC_B 0 R_NOISELESS 1 
G17         VEE_B 0 VEE 0  -1
G16         VCC_B 0 VCC 0  -1
R_PSR       73 69 R_NOISELESS 1K 
G1          69 73 OUT_J1_25 OUT_J1_24  -1M
R2          AOL_INN_J1 ESDn R_NOISELESS 1M 
R1          73 74 R_NOISELESS 1M 
R_CMR       21 74 R_NOISELESS 1K 
G5          74 21 OUT_J1_23 MID  -1M
R53         ESDn MID R_NOISELESS 1T 
R52         MID ESDp R_NOISELESS 1T 
R35         IN- ESDn R_NOISELESS 10M 
R34         IN+ ESDp R_NOISELESS 10M 
.ENDS TLV333
* 
.SUBCKT PSRR_CMRR_0_TLV333 OUT IN MID
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R3          MID 76 R_NOISELESS 100MEG 
C1          76 77 31.83P 
R2          77 76 R_NOISELESS 100MEG 
GVCCS1      77 MID 78 MID  -1
R1          MID 77 R_NOISELESS 1 
R2a         MID 78 R_NOISELESS 600 
C1a         78 79 530.5P 
R48         79 78 R_NOISELESS 100MEG 
G_1         79 MID IN MID  -89.81M
Rsrc        MID 79 R_NOISELESS 1 
GVCCS2      OUT MID 76 MID  -2
R49         MID OUT R_NOISELESS 1 
.ENDS
* 
.SUBCKT PSRR_CMRR_1_TLV333 OUT IN MID
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
GVCCS2      OUT MID 80 MID  -1
R4          MID OUT R_NOISELESS 1 
R3          MID 80 R_NOISELESS 17.65MEG 
C1          80 81 5.305F   
R2          81 80 R_NOISELESS 100MEG 
GVCCS1      81 MID 82 MID  -6.667
R1          MID 81 R_NOISELESS 1 
R80         MID 82 R_NOISELESS 1K 
C27         82 83 3.979N   
R79         83 82 R_NOISELESS 100MEG 
GVCCS8      83 MID IN MID  -100M
R78         MID 83 R_NOISELESS 1 
.ENDS
* 
.SUBCKT PSRR_CMRR_2_TLV333 OUT IN MID
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
GVCCS2      OUT MID 84 MID  -1
R49         MID OUT R_NOISELESS 1 
R3          MID 84 R_NOISELESS 120.1K 
C1          84 85 8.842P   
R2          85 84 R_NOISELESS 100MEG 
GVCCS1      85 MID 86 MID  -834.3
R1          MID 85 R_NOISELESS 1 
R80         MID 86 R_NOISELESS 120.1K 
C27         86 87 8.842P   
R79         87 86 R_NOISELESS 100MEG 
GVCCS8      87 MID IN MID  -833.3U
R78         MID 87 R_NOISELESS 1 
.ENDS
* 
.SUBCKT AOL_ZO_0_TLV333 ZO_CLEFT CL_CLAMP ZO_CRIGHT MID ZO_OUT AOL_INN AOL_INP CLAMP 
+ CLAW_CLAMP VSENSE 
.MODEL R_NOISELESS RES ( TCE=0 T_ABS=-273.15)
R4_CL       MID CL_CLAMP R_NOISELESS 1K 
GVCCS4_CL   CL_CLAMP MID CLAW_CLAMP MID  -1M
R4_CC       MID CLAW_CLAMP R_NOISELESS 1K 
GVCCS4_CC   CLAW_CLAMP MID 90 MID  -1M
C1_A6       91 90 144.7P   
R2_A6       90 MID R_NOISELESS 55K 
R1_A6       90 91 R_NOISELESS 10K 
Rdc_A6      91 MID R_NOISELESS 1 
GVCCS5_A6   91 MID 92 MID  -1.182
C4_A3       93 MID 87F   
R8_A3       MID 93 R_NOISELESS 1MEG 
GVCCS4_A3   93 MID 94 MID  -1U
C3_A2       94 MID 87F   
R7_A2       MID 94 R_NOISELESS 1MEG 
GVCCS3_A2   94 MID out2 MID  -1U
C2_A1       out2 MID 87F   
R3_A1       MID out2 R_NOISELESS 1MEG 
GVCCS3_A1   out2 MID VSENSE MID  -1U
C1_A5       95 92 4.188P   
R2_A5       92 MID R_NOISELESS 5.278K 
R1_A5       92 95 R_NOISELESS 10K 
Rdc_A5      95 MID R_NOISELESS 1 
GVCCS2_A5   95 MID 96 MID  -2.895
C1_A4       97 96 1.153N   
R2_A4       96 MID R_NOISELESS 29.36K 
R1_A4       96 97 R_NOISELESS 10K 
Rdc_A4      97 MID R_NOISELESS 1 
GVCCS1_A4   97 MID 93 MID  -1.341
C4_5        98 99 1.445P 
R11_5       99 MID R_NOISELESS 126.68M 
R10_5       99 98 R_NOISELESS 10K 
R1_5        98 MID R_NOISELESS 1 
GVCCS2_4    98 MID 100 MID  -1
C2_4        101 MID 16.753P 
R5_4        100 101 R_NOISELESS 10K 
R4_4        100 102 R_NOISELESS 9.040298K 
R7_4        102 MID R_NOISELESS 1 
GVCCS1_3    102 MID 103 MID  -1.305
R2_3        103 MID R_NOISELESS 32.785714K 
C1_3        103 104 80.499P 
R1_3        103 104 R_NOISELESS 10K 
Rdc_3       104 MID R_NOISELESS 1 
GVCCS2_2    104 MID 105 MID  -1
C2_2        106 MID 800.62P 
R5_2        105 106 R_NOISELESS 10K 
R4_2        105 107 R_NOISELESS 3.203107MEG 
R7_2        107 MID R_NOISELESS 1 
R9_5        108 MID R_NOISELESS 1 
XVCVS_LIM_1 99 MID MID 108 VCCS_LIM_ZO_0_0_TLV333
C1_A0       CLAMP MID 1.64U 
R4_A0       MID CLAMP R_NOISELESS 1MEG 
XVCCS_LIM_2_A0 4_A0 MID MID CLAMP VCCS_LIM_2_0_0_TLV333
R3_A0       MID 4_A0 R_NOISELESS 1MEG 
XVCCS_LIM_1_A0 AOL_INP AOL_INN MID 4_A0 VCCS_LIM_1_0_TLV333
GVCCS1_1    107 MID ZO_CRIGHT MID  -112.0365
C1_1        ZO_CLEFT ZO_CRIGHT 89.927U 
R2_1        ZO_CRIGHT MID R_NOISELESS 90.0605 
R1_1        ZO_CRIGHT ZO_CLEFT R_NOISELESS 10K 
Rdummy      MID ZO_OUT R_NOISELESS 38.339K 
Rx          ZO_OUT 108 R_NOISELESS 383.39K 
Rdc_1       ZO_CLEFT MID R_NOISELESS 1 
G_Aol_Zo    ZO_CLEFT MID CL_CLAMP ZO_OUT  -373.5224
R4_VS       MID VSENSE R_NOISELESS 1K 
GVCCS4_VS   VSENSE MID CLAMP MID  -1M
.ENDS
* 
.SUBCKT ESD_0_TLV333 VEE VCC ESDn ESDp
SW5         ESDp ESDn ESDp ESDn  S_VSWITCH_1
SW6         ESDn ESDp ESDn ESDp  S_VSWITCH_1
SW1         VEE ESDp VEE ESDp  S_VSWITCH_2
SW3         VEE ESDn VEE ESDn  S_VSWITCH_2
SW4         ESDn VCC ESDn VCC  S_VSWITCH_2
SW2         ESDp VCC ESDp VCC  S_VSWITCH_2
.MODEL S_VSWITCH_1 VSWITCH (RON=50 ROFF=1T VON=700M VOFF=650M)
.MODEL S_VSWITCH_2 VSWITCH (RON=50 ROFF=1T VON=500M VOFF=450M)
.ENDS
* 
.SUBCKT VOS_DRIFT_0_TLV333  VOS+ VOS-
.PARAM DC = -3.50E-06
.PARAM POL = 1
.PARAM DRIFT = 0.02E-06
E1 VOS+ VOS- VALUE={DC+POL*DRIFT*(TEMP-27)}
.ENDS
* 
.SUBCKT FEMT_0_TLV333  1 2
.PARAM NVRF=100
.PARAM RNVF={1.184*PWR(NVRF,2)}
E1 3 0 5 0 10
R1 5 0 {RNVF}
R2 5 0 {RNVF}
G1 1 2 3 0 1E-6
.ENDS
* 
.SUBCKT VCCS_LIM_GR_0_0_TLV333   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.42372E1
.PARAM INEG = -0.42372E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_4_0_0_TLV333   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.7098E1
.PARAM INEG = -0.7938E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_3_0_0_TLV333   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1
.PARAM IPOS = 0.3549E1
.PARAM INEG = -0.3969E1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW+_0_0_TLV333   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0)
+(1.651, 0.00018415)
+(3.302, 0.00055895)
+(4, 0.00075)
+(4.4027, 0.00098533)
+(4.4577, 0.001026)
+(4.5678, 0.0011524)
+(4.6779, 0.0013507)
+(4.7879, 0.0017966)
+(4.9531, 0.0027083)
.ENDS
* 
.SUBCKT VCCS_LIM_CLAW-_0_0_TLV333   VC+ VC- IOUT+ IOUT-
G1 IOUT+ IOUT- TABLE {(V(VC+,VC-))} =
+(0, 0)
+(500E-3, 4.5E-5)
+(3.3255, 0.00016064)
+(6.651, 0.00024887)
+(8.868, 0.00032868)
+(8.9789, 0.00034514)
+(9.4223, 0.00036138)
+(9.644, 0.00037251)
+(9.8657, 0.00038165)
+(9.9765, 0.00038234)
.ENDS
* 
.SUBCKT VNSE_0_TLV333  1 2
.PARAM NVR=55
.PARAM RNV={1.184*PWR(NVR,2)}
R4 5 0 {RNV}
R5 5 0 {RNV}
E3 1 2 5 0 10
.ENDS
* 
.SUBCKT VCCS_LIMIT_IQ_0_TLV333   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-3
G1 IOUT- IOUT+ VALUE={IF( (V(VC+,VC-)<=0),0,GAIN*V(VC+,VC-) )}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_TLV333   VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_HI_0_TLV333  VC+ VC- VIN COM VO+ VO-
.PARAM G=10
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT CLAMP_AMP_LO_0_TLV333_0_TLV333  VC+ VC- VIN COM VO+ VO-
.PARAM G=1
GVO+ COM VO+ VALUE = {IF(V(VIN,COM)>V(VC+,COM),((V(VIN,COM)-V(VC+,COM))*G),0)}
GVO- COM VO- VALUE = {IF(V(VIN,COM)<V(VC-,COM),((V(VC-,COM)-V(VIN,COM))*G),0)}
.ENDS
* 
.SUBCKT OL_SENSE_0_TLV333  COM SW+ OLN  OLP
GSW+ COM SW+ VALUE = {IF((V(OLN,COM)>10E-3 | V(OLP,COM)>10E-3),1,0)}
.ENDS
* 
.SUBCKT VCCS_EXT_LIM_0_TLV333  VIN+ VIN- IOUT- IOUT+ VP+ VP-
.PARAM GAIN = 1
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VIN+,VIN-),V(VP-,VIN-), V(VP+,VIN-))}
.ENDS
* 
.SUBCKT VCCS_LIM_ZO_0_0_TLV333   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 78939.8006
.PARAM IPOS = 3833.9E3
.PARAM INEG = -8434.58E3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_2_0_0_TLV333   VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 0.034771
.PARAM IPOS = 0.3
.PARAM INEG = -0.3
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
.SUBCKT VCCS_LIM_1_0_TLV333  VC+ VC- IOUT+ IOUT-
.PARAM GAIN = 1E-4
.PARAM IPOS = .5
.PARAM INEG = -.5
G1 IOUT+ IOUT- VALUE={LIMIT(GAIN*V(VC+,VC-),INEG,IPOS)}
.ENDS
* 
